US04866078
5-Bromo-4-trifluoromethyl-2-pyridone (25 g) was added portionwise to a suspension of sodium hydride (5.5 g of a 50% suspension in mineral oil) in tetrahydrofuran (250 ml) whereupon hydrogen was evolved. The reaction mixture was cooled to -78° C. and a solution (90 ml) of tertiary-butyl lithium (2.6M) in pentane added whilst maintaining the temperature below -55° C. A solution of dry dimethylformamide (40 ml) in tetrahydrofuran (150 ml) at a temperature of -78° C. was added and a thick grey/purple mixture formed. A small amount (ca. 5 mls) ammonium chloride solution was then added and the mixture allowed to warm to room temperature. The resultant yellow solution was partitioned between ammonium chloride (50 ml) and ethylacetate and the ethylacetate extracts were discarded. The aqueous layer was acidified to pH 6 using concentrated hydrochloric acid and extracted into ethyl acetate which was washed and dried as described above. The ethyl acetate was then removed under reduced pressure and the resultant brown solid was recrystallised from ethyl acetate to give 5 formyl-4-trifluoromethyl-2-pyridone (13.3 g).

reactant | 5-Bromo-4-trifluoromethyl-2-pyridone | 25 g | BrC=1C(=CC(NC1)=O)C(F)(F)F | C6H3BrF3NO
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | tertiary-butyl lithium | 2.6M, 90 ml | C(C)(C)(C)[Li]
reactant | ammonium chloride | ca. 5 mls | [Cl-].[NH4+]
reactant | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | formyl-4-trifluoromethyl-2-pyridone | 13.3 g | C(=O)C=1C(NC=CC1C(F)(F)F)=O | C7H4F3NO2
